US07572808B2
B. Preparation of 2-butyl-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring mixture of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (50 mg, 0.14 mmol) and K2CO3 (40 mg, 0.28 mmol) in DMF (0.47 mL) at 20° C. was added 4-bromobutane (40 mg, 0.28 mmol). The resulting reaction mixture was heated at 80° C. for 30 min. Analysis by HPLC/MS indicated that starting material had been consumed. The reaction mixture was brought to room temperature, diluted with water, and extracted twice with diethyl ether. The combined organic extract was washed with saturated aqueous NaHCO3 solution, then brine, then dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by reverse phase preparative HPLC (acetonitrile-water-TFA) to isolate the title compound (18 mg, 0.044 mmol) as a light yellow solid. MS: [M+H]+=412.

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C18H11Cl2N3O
reactant | K2CO3 | 0.28 mmol, 40 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromobutane | 0.28 mmol, 40 mg | BrCCCC | C4H9Br
solvent | DMF | 0.47 mL | CN(C)C=O | C3H7NO
product | 2-butyl-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.044 mmol, 18 mg | C(CCC)N1N=C2N(C=CC(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C1=O | C22H19Cl2N3O
